US08957205B2
1-[(2-Benzothienylcarbonyl)amino]cyclohexanecarboxylic acid
42 ml of 2N sodium hydroxide aqueous solution was added to a solution of 10 g (24 mmol) of 1-[(2-benzothienylcarbonyl)amino]cyclohexanecarboxylic acid phenylmethyl ester in 20 ml of tetrahydrofuran, and the mixture was refluxed under heating for 3 days. After ether was added to the reaction solution to wash it, the aqueous layer was neutralized by concentrated hydrochloric acid, and the precipitated crystal was collected by filtration. The obtained crystal was dried under reduced pressure to give 6.1 g (80%) of the title compound.

reactant | sodium hydroxide | 2N, 42 ml | [OH-].[Na+]
reactant | 1-[(2-benzothienylcarbonyl)amino]cyclohexanecarboxylic acid phenylmethyl ester | 24 mmol, 10 g | C1(=CC=CC=C1)COC(=O)C1(CCCCC1)NC(=O)C=1SC2=C(C1)C=CC=C2 | C23H23NO3S
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-[(2-Benzothienylcarbonyl)amino]cyclohexanecarboxylic acid | 6.1 g, 80% | S1C(=CC2=C1C=CC=C2)C(=O)NC2(CCCCC2)C(=O)O | C16H17NO3S
